US08470859B2
5-chloro-1-(5-cyano-2-fluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 3-(bromomethyl)-4-fluorobenzonitrile (0.29 g), and the mixture was stirred at 100° C. for 14 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (60 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 3-(bromomethyl)-4-fluorobenzonitrile | 0.29 g | BrCC=1C=C(C#N)C=CC1F | C8H5BrFN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-1-(5-cyano-2-fluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 60 mg | Br.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)C#N)F)=N)C(=O)N | InChI=1S/C14H10ClFN4O.BrH/c15-10-4-11(14(19)21)13(18)20(7-10)6-9-3-8(5-17)1-2-12(9)16;/h1-4,7,18H,6H2,(H2,19,21);1H
